US07030141B2
Step 4: 2-(2′-Methanesulfonyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
2-(2′-Methylsulfanyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.0 g, 2.4 mmol) was dissolved in 10 mL acetonitrile, added oxone (2.98 g, 4.8 mmol) in one portion and stirred at ambient temperature for 1 week and then concentrated. Redissolved in 100 mL EtOAc and 100 mL sat. NaHCO3, separated layers, washed organics with brine, dried with MgSO4, filtered and concentrated. Purified on a silica gel column eluted with 20% moving to 40% EtOAc in hexanes. Combined and concentrated pure fractions to yield title compound. (0.80 g, 75%) APCI (AP−): 443.1 (M−H)−.

reactant | 2-(2′-Methylsulfanyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.4 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=CC=C(C=C1)C1=C(C=CC=C1)SC)=O | C23H28N2O3S
reactant | oxone | 4.8 mmol, 2.98 g | OOS(=O)[O-].[K+]
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(2′-Methanesulfonyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=CC=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)=O | C23H28N2O5S
